US07527837B2
12 g of ethyl hydroxybiphenylcarboxylate and 15 g of potassium hydroxide were added to 100 mL of ethanol, and stirred at 60° C. for 1 hour. After decreasing the temperature to 45° C., 15 g of 3-((tosyloxy)methyl)-3-ethyloxetane was added dropwise thereto, and then refluxed for 2 hours. Water and toluene were added thereto, and the toluene layer was separated. The toluene layer was washed with 3% hydrochloric acid, a saturated sodium carbonate solution and water, and then toluene was distilled off. 20 g of sodium hydroxide, 500 mL of ethanol and 100 mL of water were added to the resulting residue, and refluxed for 2 hours. A residue obtained by distilling ethanol off was put in 300 mL of 5% hydrochloric acid to obtain crystals. The crystals thus obtained by filtering were recrystallized from ethanol to obtain 8 g of 4-(3-ethyloxetane-3-ylmethoxy)biphenylcarboxylic acid (OX2), which had a melting point of 222 to 225° C.

reactant | ethyl hydroxybiphenylcarboxylate | 12 g | OC1=C(C(=CC=C1)C1=CC=CC=C1)C(=O)OCC | C15H14O3
reactant | potassium hydroxide | 15 g | [OH-].[K+]
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | 3-((tosyloxy)methyl)-3-ethyloxetane | 15 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1(COC1)CC | C13H18O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 4-(3-ethyloxetane-3-ylmethoxy)biphenylcarboxylic acid | 8 g | C(C)C1(COC1)COC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C19H20O4
